US06441004B1
4-Bromophenylhydrazine hydrochloride (15 g), ethyl pyruvate (11 ml) and acetic acid (1 ml) were dissolved in ethanol and heated to reflux for 2 hours, then cooled to room temperature, resulting in precipitation of a yellow solid, which was filtered off and dried in vacuo to give the ethyl pyruvate 4-bromophenylhydrazone (16.3 g, 71%), mp 153-154°; NMR δ(CD3SOCD3) 1.23 (t, 3H), 2.03 (s, 3H), 4.18 (q, 2H), 7.19 (d, 2H), 7.40 (d, 2H), 9.88 (brs, 1H); M/z (−) 285 (M+), 283, 171, 169, 113.

reactant | 4-Bromophenylhydrazine hydrochloride | 15 g | Cl.BrC1=CC=C(C=C1)NN
reactant | ethyl pyruvate | 11 ml | C(C(=O)C)(=O)OCC | C5H8O3
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | ethyl pyruvate 4-bromophenylhydrazone | 16.3 g, 71% | BrC1=CC=C(C=C1)NN=C(C(=O)OCC)C | C11H13BrN2O2
